US09212182B2
A solution of 6-(benzylthio)-1-(4-bromo-2-methoxyphenyl)quinolin-2(1H)-one (57.89 g, 128 mmol) in 400 mL DCM was treated with 15 mL HOAc and 10 mL water and was cooled to 0° C. 1,3-dichloro-5,5-dimethylimidazolidine-2,4-dione (25.2 g, 128 mmol) was added portionwise. After stirring for 30 minutes, an additional 0.5 equvalents of 1,3-dichloro-5,5-dimethylimidazolidine-2,4-dione was added portionwise. After stirring for an additional 30 minutes, the reaction mixture was then treated with pentafluorophenol (16.06 mL, 154 mmol) and was maintained at 0° C. triethylamine (71.3 mL, 512 mmol) was added dropwise via addition funnel over 30 minutes. The reaction mixture was diluted with DCM, washed with water, and the organics were dried over MgSO4 and concentrated. The crude residue was triturated with IPA then dried and collected yielding perfluorophenyl 1-(4-bromo-2-methoxyphenyl)-2-oxo-1,2-dihydroquinoline-6-sulfonate (58.7 g, 102 mmol, 80% yield) as a mixture of atrope isomers. m/z (ESI) 576.0 (M+H)+. The atropisomers were separated using supercritical fluid chromatography (SFC). The column used was (S,S) Whelk-O, 2×15 cm. The mobile phase was run under isocratic conditions; CO2 with 50% isopropanol to afford product as an off-white solid. First atropisomer (peak 1): (P)-perfluorophenyl 1-(4-bromo-2-methoxyphenyl)-2-oxo-1,2-dihydroquinoline-6-sulfonate (26.6 g, 46.2 mmol, 36.1% yield) 1H NMR (ACETONITRILE-d3) □: 8.33 (d, J=2.2 Hz, 1H), 8.01 (d, J=9.4 Hz, 1H), 7.85 (dd, J=9.1, 2.2 Hz, 1H), 7.47 (d, J=2.1 Hz, 1H), 7.39 (dd, J=8.3, 2.0 Hz, 1H), 7.23 (d, J=8.3 Hz, 1H), 6.86 (d, J=9.0 Hz, 1H), 6.81 (d, J=9.7 Hz, 1H), 3.73 (s, 3H). m/z (ESI) 576.0 (M+H)+. Second atropisomer (peak 2): (M)-perfluorophenyl 1-(4-bromo-2-methoxyphenyl)-2-oxo-1,2-dihydroquinoline-6-sulfonate (26.6 g, 46.2 mmol, 36.1% yield). 1H NMR (ACETONITRILE-d3): 8.33 (d, J=2.2 Hz, 1H), 8.00 (d, J=9.6 Hz, 1H), 7.85 (dd, J=9.0, 2.3 Hz, 1H), 7.46 (d, J=2.0 Hz, 1H), 7.38 (dd, J=8.3, 2.1 Hz, 1H), 7.22 (d, J=8.3 Hz, 1H), 6.86 (d, J=9.0 Hz, 1H), 6.81 (d, J=9.6 Hz, 1H), 3.72 (s; 3H). m/z (ESI) 576.0 (M+H)+.

reactant | 6-(benzylthio)-1-(4-bromo-2-methoxyphenyl)quinolin-2(1H)-one | 128 mmol, 57.89 g | C(C1=CC=CC=C1)SC=1C=C2C=CC(N(C2=CC1)C1=C(C=C(C=C1)Br)OC)=O | C23H18BrNO2S
reactant | 1,3-dichloro-5,5-dimethylimidazolidine-2,4-dione | 128 mmol, 25.2 g | ClN1C(N(C(C1(C)C)=O)Cl)=O | C5H6Cl2N2O2
reactant | pentafluorophenol | 154 mmol, 16.06 mL | FC1=C(C(=C(C(=C1O)F)F)F)F | C6HF5O
reactant | triethylamine | 512 mmol, 71.3 mL | C(C)N(CC)CC | C6H15N
reactant | water | 10 mL | O | H2O
solvent | DCM | 400 mL | C(Cl)Cl | CH2Cl2
solvent | HOAc | 15 mL | CC(=O)O | C2H4O2
product | perfluorophenyl 1-(4-bromo-2-methoxyphenyl)-2-oxo-1,2-dihydroquinoline-6-sulfonate | 102 mmol, 58.7 g, 80% yield | BrC1=CC(=C(C=C1)N1C(C=CC2=CC(=CC=C12)S(=O)(=O)OC1=C(C(=C(C(=C1F)F)F)F)F)=O)OC | C22H11BrF5NO5S
